Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with ___ disease and chronic mild lymphedema of 
bilateral lower extreimities presented to her dermatologist 
today for a rash which she says has been slowly progressive for 
two weeks. She states that it started by a skin break close to 
her knee and spread down to her ankle.  
.  
She has had no systemic signs of infection. Denies, fevers, 
chills, sweats. States leg is uncomfortable but not overtly 
painful. WBC=5.6 with 78% neutrophils. No fever recorded in the 
ED or on the floor. Given one dose of IV vancomycin in the ED. 
ED vitals 98.3, 52, 139/80, 16, 98%. She developed severe 
itching soon after vanco infusion started in the scalp, hands, 
chest, and arms  
.  
She lives at home. She has never had a skin infection before. 
She has not recently been hospitalized. She had surgery ___ years 
ago on the lower spine and has had bilateral lymphedema (mild) 
since then.  

 
Past Medical History:
___  
S/p surgical correction of scoliosis  

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: T:97.1 BP:153/83 P:70 R:20 O2: 100RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Blanching, mildly tender erythema extending over right 
anterior leg from ankle to knee. Outlined with pen. Pt states 
that progression has been gradual and that it is unchanged since 
arrival to the hosptital.  

 
Pertinent Results:
___ 06:45PM   WBC-5.6 RBC-4.42 HGB-13.8 HCT-40.9 MCV-93 
MCH-31.2 MCHC-33.7 RDW-13.8
___ 06:45PM   NEUTS-74.8* ___ MONOS-3.6 EOS-1.7 
BASOS-0.3
___ 06:45PM   PLT COUNT-233
___ 06:45PM   GLUCOSE-119* UREA N-17 CREAT-0.8 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-29 ANION GAP-13
___ 06:52PM   LACTATE-0.8

___ ___ Duplex:
1. No evidence of DVT of the right lower extremity. 
2. Prominent right groin lymph node, likely reactive. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with ___ disease and mild 
chronic lymphedema of bilateral lower extremities presenting 
with extensive cellulitis which has progressed slowly over 3 
weeks.  
 
1)Right leg cellulitis: Extensive area covering entire front of 
her right lower leg from her knee to ankle with slight extension 
beyond border that was marked upon admission. She has no 
specific risk factors for MRSA and this is her first episode of 
cellulitis, last hospitalization ___ years ago.  She did not 
have any systemic symptoms however given extensive surface area 
involved she was treated with cefazolin IV.  She had improvement 
over the day and was very resistant to staying overnight for 1 
more dose of IV antibiotics and observation.  As such she was 
discharged to complete a 10 day course of Keflex.  She was asked 
to return if she notes any worsening and to see her PCP in two 
days for observation, which she agreed.  

2) ___: continue home meds sinemet and mirapex  

 
Medications on Admission:
mirapex 0.75mg tid  
Carbidopa-Levodopa 12.5, 50 TID  

 
Discharge Medications:
1. Mirapex 0.75 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Sinemet ___ mg Tablet Sig: one half Tablet PO three times 
a day.  
3. Keflex ___ mg Capsule Sig: One (1) Capsule PO four times a 
day for 9 days.
Disp:*36 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Lower leg Cellulitis

 
Discharge Condition:
good, cellulitis improved.

 
Discharge Instructions:
You were admitted to the hospital because of cellulitis (skin 
infection) of your right leg.  You were treated with two dose of 
IV antibiotic and your infection improved.  You were discharged 
to complete a ten day course of antibiotic.  You were advised to 
stay over night in the hospital for one more dose of IV 
antibiotics however you did not want to.  You were advised that 
leaving now could result in worsening of the infection and need 
to return to the hospital.    

Medications:
1)Keflex (cephalexin) for total of ten days.  Please complete 
the entire prescription even if the infection improves 
dramatically.
None of your other medications were changed.

Please call your doctor or return to the hospital if you have 
fevers, worsening of the pain, redness or warmth of your leg, 
light headedness, chills, sweats, nausea, vomiting, leg swelling 
or other worrisome symptoms.

 
Followup Instructions:
___